US09315507B2
To a solution of ethyl 2-(4-(adamantan-1-yl)-2-methylphenoxy)acetate (1.1 g, 3.50 mmol) in H2O/THF (1 mL/1.20 mL) was added lithium hydroxide monohydrate (0.29 g, 7.00 mmol), and stirred at room temperature overnight. The reaction mixture was adjusted to acidic solution with 1 N aqueous HCl and extracted with dichloromethane. The organic layer was washed with H2O and brine, and dried over anhydrous magnesium sulfate. The solvent was filtered and evaporated under reduced pressure to afford a crude solid, which was purified by silica gel column chromatography to give 2-(4-(adamantan-1-yl)-2-methylphenoxy)acetic acid as a white solid (0.54 g, 96.7% yield).

reactant | ethyl 2-(4-(adamantan-1-yl)-2-methylphenoxy)acetate | 3.50 mmol, 1.1 g | C12(CC3CC(CC(C1)C3)C2)C2=CC(=C(OCC(=O)OCC)C=C2)C | C21H28O3
reactant | lithium hydroxide monohydrate | 7.00 mmol, 0.29 g | O.[OH-].[Li+]
reactant | HCl | 1 N | Cl | ClH
solvent | H2O THF | 1 mL | O.C1CCOC1
product | 2-(4-(adamantan-1-yl)-2-methylphenoxy)acetic acid | 0.54 g, 96.7% yield | C12(CC3CC(CC(C1)C3)C2)C2=CC(=C(OCC(=O)O)C=C2)C | C19H24O3
